US07449456B2
2-Morpholin-4-yl-5-nitrophenol and 4-(2-chloroethyl)morpholine were allowed to undergo the reaction in DMF in the presence of potassium carbonate, and then the resulting compound was subjected to catalytic hydrogenation in the same manner as shown in Reference Example 3 and further treated with 4 M hydrogen chloride/ethyl acetate solution in ethyl acetate to obtain 4-morpholin-4-yl-3-(2-morpholin-4-ylethoxy)aniline hydrochloride F: 308.

reactant | 2-Morpholin-4-yl-5-nitrophenol | N1(CCOCC1)C1=C(C=C(C=C1)[N+](=O)[O-])O | C10H12N2O4
reactant | 4-(2-chloroethyl)morpholine | ClCCN1CCOCC1 | C6H12ClNO
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | hydrogen chloride ethyl acetate | 4 M | Cl.C(C)(=O)OCC
solvent | DMF | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-morpholin-4-yl-3-(2-morpholin-4-ylethoxy)aniline hydrochloride | Cl.N1(CCOCC1)C1=C(C=C(N)C=C1)OCCN1CCOCC1 | InChI=1S/C16H25N3O3.ClH/c17-14-1-2-15(19-6-10-21-11-7-19)16(13-14)22-12-5-18-3-8-20-9-4-18;/h1-2,13H,3-12,17H2;1H
